US05104888
5-[4-(6-Hydroxy-2,5,7,8-tetramethyl-4-(E)-methoxyiminochroman-2-ylmethoxy)benzyl]thiazolidine -2,4dione
A mixture of 1 g of 5-[4-(6-hydroxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione (prepared as described in Example 22 of copending U.S. Ser. No. 644,996), 0.6 g of methoxyamine hydrochloride and 5 g of methanol was allowed to stand for 10 days at room temperature. At the end of this time, ethyl acetate and an aqueous solution of potassium carbonate were added. The organic layer was separated and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was purified by silica gel column chromatography eluted with a 3:1 by volume mixture of hexane and ethyl acetate, to give the title compound softening at 72°-76° C.

reactant | 5-[4-(6-hydroxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 1 g | OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O)C | C24H25NO6S
reactant | methoxyamine hydrochloride | 0.6 g | Cl.CON
reactant | methanol | 5 g | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[4-(6-Hydroxy-2,5,7,8-tetramethyl-4-(E)-methoxyiminochroman-2-ylmethoxy)benzyl]thiazolidine -2,4dione | OC=1C(=C2/C(/CC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=N/OC)C | C25H28N2O6S
